US05124322
4-Chloro-2-(4-methoxybenzylthio)-N,N-dimethylbenzylamine (D19)
A 1.2M solution of n-butyl lithium in hexane (7.7 ml, 9.2 mmol) was added to an ice-cooled solution of 4-chloro-N,N-dimethylbenzylamine (1.57 g, 9.3 mmol) in dry ether (50 ml). The solution was allowed to warm slowly to room temperature, and after 2.5 h it was added, over 15 min, to an ice-cooled solution of 4-methoxybenzyl disulphide (2.84 g, 9.3 mmol) in dry THF (40 ml). After 1.5 h water was added and the organic layer was extracted with 2N hydrochloric acid (3×15 ml). The acidic solution was washed with ether then was made basic with 10% sodium hydroxide, and was extracted with ether. The extracts were washed with water and brine, then were dried (K2CO3) and evaporated to leave a pale green oil. Column chromatography on silica gel (75 g), eluting with ethyl acetate gave the title compound as a solid (1.81 g, 61%), mp 66°-68° C. (ethyl acetate/pentane).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 9.2 mmol, 7.7 ml | CCCCCC | C6H14
reactant | 4-chloro-N,N-dimethylbenzylamine | 9.3 mmol, 1.57 g | ClC1=CC=C(CN(C)C)C=C1 | C9H12ClN
reactant | 4-methoxybenzyl disulphide | 9.3 mmol, 2.84 g | COC1=CC=C(CSSCC2=CC=C(C=C2)OC)C=C1 | C16H18O2S2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-Chloro-2-(4-methoxybenzylthio)-N,N-dimethylbenzylamine | 1.81 g, 61% | ClC1=CC(=C(CN(C)C)C=C1)SCC1=CC=C(C=C1)OC | C17H20ClNOS
